US07220766B2
Step A: Methyl 2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)thio]-3-(4-benzyloxyphenyl)propionate
The solution of 0.3 g (0.001 mol) of methyl 3-[4-(benzyloxy)phenyl]-2-chloropropionate in methanol (2 ml) was added dropwise to the solution of 0.2 g (0.001 mol) 1,1-dioxo-1,2-benzoisothiazol-3(2H)-thione (thiosaccharine) and 0.04 g (0.001 mol) NaOH in methanol (3 ml). The solution thus obtained was heated at reflux for 5 h. The crude product obtained after evaporating the solvent was used without purification in the next step of the synthesis.

reactant | methyl 3-[4-(benzyloxy)phenyl]-2-chloropropionate | 0.001 mol, 0.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OC)Cl | C17H17ClO3
reactant | 1,1-dioxo-1,2-benzoisothiazol-3(2H)-thione | 0.001 mol, 0.2 g | O=S1(NC(C2=C1C=CC=C2)=S)=O | C7H5NO2S2
reactant | NaOH | 0.001 mol, 0.04 g | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | Methyl 2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)thio]-3-(4-benzyloxyphenyl)propionate | O=S1(N=C(C2=C1C=CC=C2)SC(C(=O)OC)CC2=CC=C(C=C2)OCC2=CC=CC=C2)=O | C24H21NO5S2
